US06451887B1
2-(4-Fluoro-α-cumyl)-4-tert-octylphenol
4-Fluoro-α-methylstyrene (18 g) as prepared in Example 2 and 20.6 g of 4-tert-octylphenol are reacted according to the procedure of Example 3 to yield 26 g of the title compound as a reddish, viscous oil whose structure is consistent with 1Hnmr and mass spectroscopy.

reactant | 4-Fluoro-α-methylstyrene | 18 g | FC1=CC=C(C(=C)C)C=C1 | C9H9F
reactant | 4-tert-octylphenol | 20.6 g | C(C)(C)(CC(C)(C)C)C1=CC=C(C=C1)O | C14H22O
product | 2-(4-Fluoro-α-cumyl)-4-tert-octylphenol | 26 g | FC1=CC=C(C(C)(C)C2=C(C=CC(=C2)C(C)(C)CC(C)(C)C)O)C=C1 | C23H31FO
